US08476267B2
4-Amino-2-(methylsulfonyl)-1,3-thiazole-5-carbonitrile
2.7 g (15.8 mmol) of 4-amino-2-(methylsulfanyl)-1,3-thiazole-5-carbonitrile were dissolved in 500 ml of dichloromethane, and 12 g (34.7 mmol) of 50% strength 3-chloroperbenzoic acid were added. The mixture was stirred at RT for 30 min. 6 ml of DMSO were added, and the reaction mixture was washed with saturated sodium bicarbonate solution and water. The organic phase was dried over magnesium sulfate and concentrated on a rotary evaporator. This gave 2.2 g (46% of theory) of the product as a solid.

reactant | 4-amino-2-(methylsulfanyl)-1,3-thiazole-5-carbonitrile | 15.8 mmol, 2.7 g | NC=1N=C(SC1C#N)SC | C5H5N3S2
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-Amino-2-(methylsulfonyl)-1,3-thiazole-5-carbonitrile | NC=1N=C(SC1C#N)S(=O)(=O)C | C5H5N3O2S2
